US07825253B2
N5-(4-Fluoro-phenyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=384.1 (M+H+), was prepared in accordance with the general method of example 38 from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and 1-bromo-4-fluorobenzene.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 1-bromo-4-fluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
product | N5-(4-Fluoro-phenyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine | FC1=CC=C(C=C1)NC=1C=2C=CC(=NC2C=CC1)NC1=CC=CC=2C=C(OC21)C | C24H18FN3O
